US05116741
300 mg (0.69 mmole) of Z-Tyr-Gly-Gly-OH was dissolved in 5 mL dry THR, and the temperature was lowered to -10° C. in a dry ice/ethylene glycol bath. One equivalent of N-methyl morpholine and 1 equivalent of isobutyl chloroformate was added with stirring. One equivalent of H-L-Phe-OCH2CN, HCl (166 mg), and 1 equivalent of N-methyl morpholine dissolved in 2 mL DMF was added and the solution stirred for 5 minutes. The reaction was allowed to come to room temperature, then diluted with six volumes of ethyl acetate. The ethyl acetate was washed with cold water (2x), 0.1 N HCl (3x), 0.2 M Na2CO3 (2x), water (2x) and concentrated brine (1x). The ethyl acetate as concentrated carefully under vacuum, and the residue was recrystallized from CH2Cl2 /hexanes to give 260 mg (62%) of Z-Tyr-Gly-Gly-Phe-OCH2CN. Amino acid analysis: tyr1.0, gly1.9, phe0.9.

reactant | Z-Tyr-Gly-Gly-OH | 0.69 mmole, 300 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C21H23N3O7
reactant | N-methyl morpholine | One equivalent | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1 equivalent | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-L-Phe-OCH2CN | One equivalent | N[C@@H](CC1=CC=CC=C1)C(=O)OCC#N | C11H12N2O2
reactant | HCl | 166 mg | Cl | ClH
reactant | N-methyl morpholine | 1 equivalent | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Z-Tyr-Gly-Gly-Phe-OCH2CN | 260 mg, 62% | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC#N)C(=O)OCC1=CC=CC=C1 | C32H33N5O8
